US07579351B2
8-(Piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
The solution of 0.45 g (1.17 mmol) 4-(1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-8-yloxy)-piperidine-1-carboxylic acid tert-butyl ester in 10 mL dichloromethane was cooled to 0° C. and was treated with 5 mL (7.4 g, 65.3 mmol) trifluoroacetic acid. The cooling bath was removed and after stirring at room temperature for 1 h the volatile components were removed at a rotary evaporator. The residue was taken up in dichloromethane and washed with 1 M aqueous sodium hydroxide solution. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 140 mg (42%) of the product as a white solid.

reactant | 4-(1-oxo-1,2,3,4-tetrahydro-pyrazino[1,2-a]indol-8-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.17 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C21H27N3O4
reactant | trifluoroacetic acid | 65.3 mmol, 5 mL, 7.4 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 8-(Piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 140 mg, 42% | N1CCC(CC1)OC1=CC=2C=C3N(C2C=C1)CCNC3=O | C16H19N3O2
